US04877881
According to the procedure of Example 22C, 1-(4'-hydroxy-3',5'-dimethoxyphenyl)-1-hexene-3,5-dione is reacted with t-butylchlorodimethyl silane to afford 1-(4'-t-butyldimethylsilyloxy-3',5'-dimethoxyphenyl)-1-hexene-3,5-dione suitably pure for further use.

reactant | 1-(4'-hydroxy-3',5'-dimethoxyphenyl)-1-hexene-3,5-dione | OC1=C(C=C(C=C1OC)C=CC(CC(C)=O)=O)OC | C14H16O5
reactant | t-butylchlorodimethyl silane | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
product | 1-(4'-t-butyldimethylsilyloxy-3',5'-dimethoxyphenyl)-1-hexene-3,5-dione | [Si](C)(C)(C(C)(C)C)OC1=C(C=C(C=C1OC)C=CC(CC(C)=O)=O)OC | C20H30O5Si
